US07592453B2
tert-Butyl (4-{[((1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)amino]carbonyl}benzyl)carbamate
In the same manner as in Reference Example 19 and using 4-{[(tert-butoxycarbonyl)amino]methyl}benzoic acid and (1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine dihydrochloride, the title compound was synthesized.

reactant | 4-{[(tert-butoxycarbonyl)amino]methyl}benzoic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | (1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine dihydrochloride | Cl.Cl.COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N
product | tert-Butyl (4-{[((1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)amino]carbonyl}benzyl)carbamate | COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(=O)C2=CC=C(CNC(OC(C)(C)C)=O)C=C2 | C33H44N4O5
